US07405299B2
A. Preparation of N-(6-Bromo-[1,8]naphthyridin-2-yl)-2-dimethylamino-acetamide
Add N,N-dimethylglycine (0.28 g, 2.68 mmol), 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide (0.47 g, 2.45 mmol), 1-hydroxybenzotriazole (0.33 g, 2.45 mmol), and methylene chloride (111 mL) to 6-bromo-[1,8]naphthyridin-2-ylamine (Reichardt, C. et al, Tetrahedron Lett. 1977, 2087; 0.50 g, 2.23 mmol). Stir the reaction at room temperature for 19 h, concentrate in vacuo and purify by flash column chromatography to provide the subtitled compound (0.41 g, 60%) as an orange solid. MS ESI+ m/e 309/311 (M+1). 1H NMR (DMSO-d6) δ 10.52 (m, 1H), 8.96 (m, 1H), 8.71 (m, 1H), 8.35 (m, 2H), 3.15 (s, 2H), 2.25 (s, 6H). TLC (SiO2): Rf0.3 (1:4 [80:18:2 chloroform/methanol/concentrated aqueous ammonium hydroxide]/dichloromethane).

reactant | N,N-dimethylglycine | 2.68 mmol, 0.28 g | CN(CC(=O)O)C | C4H9NO2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide | 2.45 mmol, 0.47 g | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | 1-hydroxybenzotriazole | 2.45 mmol, 0.33 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 6-bromo-[1,8]naphthyridin-2-ylamine | 2.23 mmol, 0.50 g | BrC=1C=C2C=CC(=NC2=NC1)N | C8H6BrN3
solvent | methylene chloride | 111 mL | C(Cl)Cl | CH2Cl2
product | N-(6-Bromo-[1,8]naphthyridin-2-yl)-2-dimethylamino-acetamide | 0.41 g, 60% | BrC=1C=C2C=CC(=NC2=NC1)NC(CN(C)C)=O | C12H13BrN4O
